US07696223B2
c) 2-(4-Chloro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 4-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester (964 mg, 2.00 mol) in THF (7.2 mL) was added drop wise a solution of 1 M KOtBu in THF (2.8 mL, 0.02 mmol) at −78° C. The red solution was stirred at −78° C. for 20 min, warmed to room temperature and stirred at that temperature for two hours before it was quenched with water, extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give a yellow oil. It was dissolved in dichloromethane (4 mL) and TFA (1 mL) was added. The mixture was stirred at room temperature for 1 h before it was concentrated in vacuo. It was redissolved in dichloromethane, triethylamine (1.4 mL) was added. The mixture was stirred under air overnight before it was partitioned between ethyl acetate and water, the organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and dichloromethane to give the title compound as a white solid (59 mg): MS: (+) m/z 335.0 M+1).

reactant | 4-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester | 2.00 mol, 964 mg | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C22H27ClN2O6S
reactant | KOtBu | 1 M | CC(C)(C)[O-].[K+]
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 7.2 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | THF | 0.02 mmol, 2.8 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 59 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC=C(C=C2)Cl)O | C15H11ClN2O3S
